US05574173
Dissolved methyl 2-[6, 11-dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-enoate (9.00 g, 0.0292 mol) in 100 mL of dry THF, and cooled to 0° C. under a nitrogen atmosphere. Added 1.0M lithium aluminum hydride in THF (29.2 mL, 0.0292 mol) via addition funnel. Stirred at room temperature for 45 mins. Added 1 mL of water, 1 mL of 1N NaOH, then 3 mL of water. Stirred at room temperature for 30 mins. then filtered through celite. Washed celite cake with ethyl acetate. Washed filtrate with saturated NaCl, dried with MgSO4, filtered, and evaporated. Purified crude product by flash chromatography on silica gel eluting with 10% ethyl acetate-hexane then 25% ethyl acetate-hexane. Combined appropriate fractions and evaporated to give 6.78 g (83% yield) of 2-[6,11-dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-en-1-ol.

reactant | methyl 2-[6, 11-dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-enoate | 0.0292 mol, 9.00 g | C1=CC=CC=2OCC3=C(C(C21)C(C(=O)OC)CC=C)C=CC=C3 | C20H20O3
reactant | lithium aluminum hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 mL | O | H2O
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
reactant | water | 3 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 0.0292 mol, 29.2 mL | C1CCOC1 | C4H8O
product | 2-[6,11-dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-en-1-ol | 6.78 g, 83% yield | C1=CC=CC=2OCC3=C(C(C21)C(CO)CC=C)C=CC=C3 | C19H20O2
